US05998433
a) Synthesis of ethyl (E)-3-(3-furyl)acrylate
To a solution of 17.7 g (78.8 mmol) of ethyl diethylphosphonoacetate in 150 ml of benzene, 2.89 g (72.2 mmol) of sodium hydride (60% in oil) was added under ice-cooling, followed by stirring for 30 minutes. To this solution, a solution of 6.308 g (65.65 mmol) of 3-furaldehyde in 50 ml of benzene was added dropwise, followed by stirring at room temperature for 30 minutes and refluxing for 30 minutes. After the reaction mixture was cooled to room temperature, ether was added; the mixture was then washed with water. The ether solution was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane to hexane/ethyl acetate=9/1) to yield the desired product.

reactant | ethyl diethylphosphonoacetate | 78.8 mmol, 17.7 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 72.2 mmol, 2.89 g | [H-].[Na+]
reactant | 3-furaldehyde | 65.65 mmol, 6.308 g | O1C=C(C=C1)C=O | C5H4O2
reactant | ether | CCOCC | C4H10O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | ethyl (E)-3-(3-furyl)acrylate | O1C=C(C=C1)/C=C/C(=O)OCC | C9H10O3
